US08039480B2
tert-Butyl 9-butyl-3,9-diazaspiro[5.5]undecane-3-carboxylate
tert-Butyl 3,9-diazaspiro[5.5]undecane-3-carboxylate (150 mg, 0.59 mmol) was dissolved in 10 ml of absolute dichloromethane and admixed with butyraldehyde (52 μl, 1 eq.). With ice bath cooling, 17 μl of glacial acetic acid (0.5 eq.) and sodium triacetoxyborohydride (137 mg, 1.1 eq.) were added. The mixture was stirred at RT for 16 h. Owing to incomplete reaction, butyraldehyde (52 μl, 1 eq.), glacial acetic acid (17 μl, 0.5 eq.) and sodium triacetoxyborohydride (137 mg, 1.1 eq.) were again added. After stirring at RT for a further 4 h, a little water was added and the reaction mixture was washed with saturated NH4Cl solution. The organic phase was dried over MgSO4 and freed from the solvent under reduced pressure. The product was obtained as a colorless oil.

reactant | tert-Butyl 3,9-diazaspiro[5.5]undecane-3-carboxylate | 0.59 mmol, 150 mg | C1CN(CCC12CCNCC2)C(=O)OC(C)(C)C | C14H26N2O2
reactant | butyraldehyde | 52 μl, 1 eq. | C(CCC)=O | C4H8O
reactant | acetic acid | 17 μl, 0.5 eq. | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 137 mg, 1.1 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | butyraldehyde | 52 μl, 1 eq. | C(CCC)=O | C4H8O
reactant | acetic acid | 17 μl, 0.5 eq. | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 137 mg, 1.1 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | tert-Butyl 9-butyl-3,9-diazaspiro[5.5]undecane-3-carboxylate | C(CCC)N1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C18H34N2O2
